US05231216
Trans-2-[2'-(N'-phenylureido)cyclohexyloxy] acetic acid
To a solution of trans-2-carboxymethoxy-cyclohexyl ammonium chloride (0.419 g, 2 mmoles) in 2N NaOH (10 ml), phenylisocyanate (0.476 g, 4 mmoles) was added under stirring. After 1 hour the solution was extracted with diethyl ether (10 ml) and the aqueous phase was acidified with HCl 18% to pH 3. The title compound separated in the form of white crystals, which were filtered off and dried over P2O5. Thus, there were obtained 0.23 g (40%) of the title compound, melting point 166°-168° C.

reactant | trans-2-carboxymethoxy-cyclohexyl ammonium chloride | 2 mmoles, 0.419 g | [Cl-].C(=O)(O)CO[C@H]1[C@@H](CCCC1)[NH3+]
reactant | phenylisocyanate | 4 mmoles, 0.476 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | NaOH | 2N, 10 ml | [OH-].[Na+]
product | Trans-2-[2'-(N'-phenylureido)cyclohexyloxy] acetic acid | 0.23 g, 40% | C1(=CC=CC=C1)NC(N[C@H]1[C@@H](CCCC1)OCC(=O)O)=O | C15H20N2O4
